US07307099B2
4-hydroxy 4-[1-(toluene-4-sulfonyl)-1H-indol-2-yl]-4H-naphthalen-1-one
The title compound was prepared from 4,4-dimethoxy-4H-naphthalen-1-one and 1-(toluene4-sulfonyl)-1H-indole, according to Method E, described above. Yield 23%; mp 110-112° C.; 1H NMR (CDCl3) δ 8.35-8.39 (dd, J=8 Hz, 1H), 8.04 (d, J=8 Hz,1H), 7.74-7.97 (m, 6H), 7.32-7.48 (m, 6H), 6.53 (d, J=10 Hz,1H), 2.52 (s, 3H); 13C NMR (CDCl3) δ 189.7, 154.0, 150.2, 149.8, 148.8, 143.6, 140.1, 137.9, 135.7, 134.8, 133.6, 132.3, 131.7, 131.3, 130.7, 129.3, 126.6, 120.4, 120.3, 74.8, 26.6; MS (AP+) m/z 430.09 (M++1), 412.14.

reactant | 4,4-dimethoxy-4H-naphthalen-1-one | COC1(C=CC(C2=CC=CC=C12)=O)OC | C12H12O3
reactant | 1-(toluene4-sulfonyl)-1H-indole | C1(=CC=C(C=C1)S(=O)(=O)N1C=CC2=CC=CC=C12)C | C15H13NO2S
product | 4-hydroxy 4-[1-(toluene-4-sulfonyl)-1H-indol-2-yl]-4H-naphthalen-1-one | Yield 23% | OC1(C=CC(C2=CC=CC=C12)=O)C=1N(C2=CC=CC=C2C1)S(=O)(=O)C1=CC=C(C=C1)C | C25H19NO4S
